datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)[NH2+]CCCCCC[NH:10]C(C)C.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)[NH2+]CCCCCC[NH+:10](C(C)C)[H:20].O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC[N:10](C)c1ccccc1.COc1ccc([Se][O:21][H:20])c([N+](=O)[O-])c1>>CC[N+:10](C)(c1ccccc1)[H:20].COc1ccc([Se][O-:21])c([N+](=O)[O-])c1 10=20;20,21=21",
"C#CC(C)(C)[NH+:21](C(C)(C)C=C)[H:20].CCCOc1ccc([O-:10])cc1>>C#CC(C)(C)[NH:21]C(C)(C)C=C.CCCOc1ccc([O:10][H:20])cc1 10=20;20,21=21",
"CCOC(=O)/C(=N/[O-:10])c1ccccc1.C[C@@H]([C@H](O)c1ccccc1)[NH+:21](C)[H:20]>>CCOC(=O)/C(=N/[O:10][H:20])c1ccccc1.C[C@@H]([C@H](O)c1ccccc1)[NH:21]C 10=20;20,21=21",
"Cc1cc(-c2cccc[nH+]2)[n+:21]([H:20])n1C.c1cc2ccc([O-:10])cc2nn1>>Cc1cc(-c2cccc[nH+]2)[n:21]n1C.c1cc2ccc([O:10][H:20])cc2nn1 10=20;20,21=21",
"C[NH:10]CC(O)c1cccc(O)c1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C[NH+:10](CC(O)c1cccc(O)c1)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC[NH+](C)CCOCC[N:10](C)C.CC[NH+](CC)CCCC(C)[NH+:21](c1cc(OC)cc2ccc[nH+]c12)[H:20]>>CC[NH+](C)CCOCC[N+:10](C)(C)[H:20].CC[NH+](CC)CCCC(C)[NH:21]c1cc(OC)cc2ccc[nH+]c12 10=20;20,21=21",
"C[NH2+]CC[N:10](C)CC[NH2+]C.Cc1[nH]c2ccc([NH2+:21][H:20])cc2[nH+]1>>C[NH2+]CC[N+:10](C)(CC[NH2+]C)[H:20].Cc1[nH]c2ccc([NH2:21])cc2[nH+]1 10=20;20,21=21",
"C=C(C)C(=O)NCC[N:10](C)C.COc1ccc([N+](=O)[O-])c(C[NH2+:21][H:20])c1>>C=C(C)C(=O)NCC[N+:10](C)(C)[H:20].COc1ccc([N+](=O)[O-])c(C[NH2:21])c1 10=20;20,21=21",
"COc1ccc(C2C[NH+:21]2[H:20])cc1.C[NH+](C)CC[NH2:10]>>COc1ccc(C2C[NH:21]2)cc1.C[NH+](C)CC[NH2+:10][H:20] 10=20;20,21=21",
"CC[N+:21](CC)(CC(=O)NCc1ccccc1)[H:20].O=[N+]([O-])/C=C/c1ccc([O-:10])cc1>>CC[N:21](CC)CC(=O)NCc1ccccc1.O=[N+]([O-])/C=C/c1ccc([O:10][H:20])cc1 10=20;20,21=21",
"CC(C)CCC([NH3+])C(=O)[O:21][H:20].Nc1nc([S-])nc([NH-:10])n1>>CC(C)CCC([NH3+])C(=O)[O-:21].Nc1nc([S-])nc([NH:10][H:20])n1 10=20;20,21=21",
"CC1=CC([C:21](C)([N+](=O)[O-])[H:20])=CC=C1.COCCSC(C)[O-:10]>>CC1=CC([C-:21](C)[N+](=O)[O-])=CC=C1.COCCSC(C)[O:10][H:20] 10=20;20,21=21",
"CCCCNc1cc[n+:21]([H:20])c2cccc([N+](=O)[O-])c12.Cc1cc([C@@H]([NH3+])CO)c([O-:10])c([C@@H]([NH3+])CO)c1>>CCCCNc1cc[n:21]c2cccc([N+](=O)[O-])c12.Cc1cc([C@@H]([NH3+])CO)c([O:10][H:20])c([C@@H]([NH3+])CO)c1 10=20;20,21=21",
"O=C(C1CCC1)[O-:10].O=[N+]([O-])c1ccc2ccc([O:21][H:20])cc2c1>>O=C(C1CCC1)[O:10][H:20].O=[N+]([O-])c1ccc2ccc([O-:21])cc2c1 10=20;20,21=21",
"Cc1nn(-c2ccccc2)c([O-:10])c1Cc1ccccc1.O=S1(=O)NCNc2cc(Cl)c(S(=O)(=O)[NH:21][H:20])cc21>>Cc1nn(-c2ccccc2)c([O:10][H:20])c1Cc1ccccc1.O=S1(=O)NCNc2cc(Cl)c(S(=O)(=O)[NH-:21])cc21 10=20;20,21=21",
"CC(C)([OH2+])[O-:10].O=C(C(c1ccc(C2CCCCC2)cc1)C(O)c1ccccc1)[O:21][H:20]>>CC(C)([OH2+])[O:10][H:20].O=C(C(c1ccc(C2CCCCC2)cc1)C(O)c1ccccc1)[O-:21] 10=20;20,21=21",
"Cc1nc(N)c2ncsc2[n:10]1.Cc1nnc(C)n1[NH:21][H:20]>>Cc1nc(N)c2ncsc2[n+:10]1[H:20].Cc1nnc(C)n1[NH-:21] 10=20;20,21=21",
"O=C([O-])/C=C/c1ccccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])/C=C/c1ccccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC1CCCC(C(=O)[O-])[NH:10]1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC1CCCC(C(=O)[O-])[NH+:10]1[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC1=[N+:21]([H:20])CCS1.CN(C)c1cc[n:10]cc1>>CC1=[N:21]CCS1.CN(C)c1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"Cc1c[n:10]c(N)s1.O=C1CSc2c(c(N3CCOCC3)nc[n+:21]2[H:20])N1>>Cc1c[n+:10]([H:20])c(N)s1.O=C1CSc2c(c(N3CCOCC3)nc[n:21]2)N1 10=20;20,21=21",
"COC(=O)[C@H](NC(=O)Cc1ccccc1)[C@@H]1SC(C)(C)[C@H]2C(=O)[N:21]([H:20])C(=S)N12.O=C(c1ccc(Cl)s1)[O-:10]>>COC(=O)[C@H](NC(=O)Cc1ccccc1)[C@@H]1SC(C)(C)[C@H]2C(=O)[N-:21]C(=S)N12.O=C(c1ccc(Cl)s1)[O:10][H:20] 10=20;20,21=21",
"CN(C)C([OH2+])[O:21][H:20].c1coc(CNc2nc[n:10]c3nc[nH]c23)c1>>CN(C)C([OH2+])[O-:21].c1coc(CNc2nc[n+:10]([H:20])c3nc[nH]c23)c1 10=20;20,21=21",
"CC1CN(C)CC[N:10]1C.OC[C@@H]1O[C@H](n2c[n+:21]([H:20])c3ccccc32)[C@@H](O)[C@H](O)[C@H]1O>>CC1CN(C)CC[N+:10]1(C)[H:20].OC[C@@H]1O[C@H](n2c[n:21]c3ccccc32)[C@@H](O)[C@H](O)[C@H]1O 10=20;20,21=21",
"CC(C)=CCC1C(=O)C(CC=C(C)C)(CC=C(C)C)C(O)(C(=O)[O:21][H:20])C1=O.[NH3+]c1ccc(C(=O)c2ccc([NH2:10])cc2)cc1>>CC(C)=CCC1C(=O)C(CC=C(C)C)(CC=C(C)C)C(O)(C(=O)[O-:21])C1=O.[NH3+]c1ccc(C(=O)c2ccc([NH2+:10][H:20])cc2)cc1 10=20;20,21=21",
"C=CCNCCC[NH:10]CC=C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C=CCNCCC[NH+:10](CC=C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C([O-])[C@@H]1CCCN1C(=O)[C@@H]1CCC[NH:10]1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>O=C([O-])[C@@H]1CCCN1C(=O)[C@@H]1CCC[NH+:10]1[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].c1ccc(C2CCC[NH:10]2)cc1>>O=C1SC2=C(C=CC=C2)[CH-:21]1.c1ccc(C2CCC[NH+:10]2[H:20])cc1 10=20;20,21=21",
"CSc1ccc[n+:21]([H:20])c1.C[C@@H]([C@H](O)c1ccccc1)[NH:10]C>>CSc1ccc[n:21]c1.C[C@@H]([C@H](O)c1ccccc1)[NH+:10](C)[H:20] 10=20;20,21=21",
"C[N+:21]1([H:20])CCC2=C(C1)C(c1ccccc1)c1ccccc12.c1ccc(-c2c[n-:10]c(-c3ccccc3)n2)cc1>>C[N:21]1CCC2=C(C1)C(c1ccccc1)c1ccccc12.c1ccc(-c2c[n:10]([H:20])c(-c3ccccc3)n2)cc1 10=20;20,21=21",
